US09376433B2
A suspension of 3-[4-(1-hydroxy-1-methyl-ethyl)-phenyl]-2H-isoquinolin-1-one (55.8 mg, 0.20 mmol) in dichloromethane (0.5 ml) is cooled to −78° C. Diethylaminosulfurtrifluoride (105 μl, 0.80 mmol) is added. The reaction mixture is allowed to reach room temperature within 30 minutes (formation of a clear solution). The reaction mixture is evaporated and the residue is treated with water and saturated sodium hydrogen carbonate solution. The solids are filtered off and chromatographed on a silica gel column with cyclohexane/ethyl acetate as eluent to afford 3-[4-(1-fluoro-1-methyl-ethyl)-phenyl]-2H-isoquinolin-1-one as fine white powder; HPLC/MS 1.94 min (A), [M+H] 282;

reactant | 3-[4-(1-hydroxy-1-methyl-ethyl)-phenyl]-2H-isoquinolin-1-one | 0.20 mmol, 55.8 mg | OC(C)(C)C1=CC=C(C=C1)C=1NC(C2=CC=CC=C2C1)=O | C18H17NO2
reactant | Diethylaminosulfurtrifluoride | 0.80 mmol, 105 μl | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 3-[4-(1-fluoro-1-methyl-ethyl)-phenyl]-2H-isoquinolin-1-one | FC(C)(C)C1=CC=C(C=C1)C=1NC(C2=CC=CC=C2C1)=O | C18H16FNO
